US06949542B2
7-Dimethylamino-4-[3-(3-methyl-[1,2,4]triazin-6-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J1) (160 mg, 0.5 mmol) and 3-[3-(3-methyl-[1,2,4]triazin-6-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K46) (180 mg, 0.55 mmol) according to the general procedure M and subsequent treatment of the crude product according to the general procedure N. Obtained as a light yellow solid (8 mg).

reactant | (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.5 mmol, 160 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)N)=O | C14H20F3N3O2
reactant | 3-[3-(3-methyl-[1,2,4]triazin-6-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.55 mmol, 180 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CN=C(N=N1)C)=O | C17H19N3O3
product | 7-Dimethylamino-4-[3-(3-methyl-[1,2,4]triazin-6-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CN(C1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CN=C(N=N2)C)=O)C=C1C(F)(F)F)C | C22H19F3N6O
